US04276304
A mixture of 812 mg of 1-(4-methoxyphenyl)-1-chloro-2-methyl-2-nitropropane, 2 ml of acetic acid, 150 mg of platinum dioxide and 20 ml of 1,2-dimethoxyethane is stirred at 20° C. for 2 hours in hydrogen gas atmosphere under 70 atmospheres, and then at 45° C. for 4.5 hours under 68-65 atmospheres, and then at 80° C. for 14 hours under 68 atmospheres. After cooling, the reaction mixture is filtered to remove insoluble materials, and said insoluble materials are washed with ethanol and water, successively. The filtrate and the washing are combined, and the combined solution is evaporated to remove solvent. Cold 10% hydrochloric acid is added to the residue (brown oil), and the mixture is extracted with chloroform. The aqueous layer is alkalized with 10% sodium hydroxide under cooling, and then extracted with benzene. The extract is washed with water and a saturated sodium chloride solution, successively. The washed extract is dried and then evaporated to remove solvent. The residue (colorless oil, 460 mg) is dissolved in 2 ml of isopropylalcohol. 4 ml of ether containing hydrogen chloride (27 g/500 ml) are added to the isopropylalcohol solution, and said solution is allowed to stand. The crystalline precipitates are collected by filtration, washed with ether, and then recrystallized from isopropylalcohol. 400 mg of α,α-dimethyl-4-methoxyphenethylamine hydrochloride are thereby obtained as colorless plates.

reactant | 1-(4-methoxyphenyl)-1-chloro-2-methyl-2-nitropropane | 812 mg | COC1=CC=C(C=C1)C(C(C)([N+](=O)[O-])C)Cl | C11H14ClNO3
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | hydrogen | [H][H] | H2
catalyst | platinum dioxide | 150 mg | [Pt](=O)=O
product | α,α-dimethyl-4-methoxyphenethylamine hydrochloride | 400 mg | Cl.CC(CC1=CC=C(C=C1)OC)(C)N | InChI=1S/C11H17NO.ClH/c1-11(2,12)8-9-4-6-10(13-3)7-5-9;/h4-7H,8,12H2,1-3H3;1H
